US04318913
4-[3-Aminopropoxy]-N,N-dimethylbenzeneethanamine
2-[3-[4-[2-(Dimethylamino)ethyl]phenoxy]propyl]-1H-isoindole-1,3-(2H)-dione (2.1 g) and hydrazine hydrate (1.2 ml) were heated at reflux in ethanol for 4 h. The solvent was evaporated and the residue was distilled to give the title compound as a clear yellow oil b.p. 170° (0.1 mm). TLC silica; ethyl acetate:water:isopropanol:0.88 ammonia 25:8:15:2; Rf 0.35.

reactant | 2-[3-[4-[2-(Dimethylamino)ethyl]phenoxy]propyl]-1H-isoindole-1,3-(2H)-dione | 2.1 g | CN(CCC1=CC=C(OCCCN2C(C3=CC=CC=C3C2=O)=O)C=C1)C | C21H24N2O3
reactant | hydrazine hydrate | 1.2 ml | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 4-[3-Aminopropoxy]-N,N-dimethylbenzeneethanamine | NCCCOC1=CC=C(C=C1)CCN(C)C | C13H22N2O
